reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C@@:4]1([C:6]#[C:7][H:15])[H:13].[O:5]([H:8])[H:14],78.2971888848979
[C:1](=[C:2]([C:3]#[N:4])[H:10])([H:8])[H:9].[C:5]=[N:6][H:7]>>[C:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],78.4746995988256
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]#[C:5][C:6](=[O:4])[H:11])[H:10])([H:7])([H:8])[H:9],80.37972352092791
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:12])([H:13])[C@:4]1([O:5][H:11])[N:6]([H:14])[H:15])([H:7])([H:8])[H:9],80.284047756995
[C:1]([C:2]([N:3]([C@@:4]1([H:15])[O:5][C:6]1([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],66.3515710326197
[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[N:4]([H:10])[C@@:5]1([H:11])[O:6]2>>[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7],14.749958188963795
[C:1](=[C:2]([C:3]([O:4][H:13])([H:11])[H:12])[C:5]([O:6][H:16])([H:14])[H:15])([H:8])[H:9].[H:7][H:10]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],79.9664659030272
[C:1]1([H:7])([H:8])[N:2]([H:9])[O:6][C:5]([H:12])([H:13])[C:4]([H:11])=[C:3]1[H:10]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[O:6]1)[H:10],45.327659034166295
[C:1]([C:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[H:14])[H:11])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],79.82736195381631
[C-:3]#[O+:4].[C:1]([N:2]([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],67.2808522355455
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],63.955639307106495
[C:1]([C@:2]1([H:11])[C:3]([H:10])=[C:4]1[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],39.8271166401302
[C:1]([C@@:2]1([O:3][H:12])[C:4]([H:10])([H:11])[C:5]1=[C:6])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],16.926124684258696
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C@:3]1([C:4]([H:12])([H:13])[H:14])([H:11])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1,77.6895082637098
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:6]([H:12])[C:5](=[O:3])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9],111.269851227607
[C:1]([O:2][C:3]([C:4][C:6]([H:16])([H:17])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:12])([H:13])([H:14])[H:15]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],9.157928540789783
[C:1]([N+:2]([C-:3]([C:4]#[N:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],23.288074752824407
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:4]/[C:3](=[N:2]/[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],77.80547667004309
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[H:7][H:10].[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:8])[H:9])[H:11],75.65601837853491
[C:1]([C:2][C:4]([O:5]/[C:6]([C:3]([H:11])([H:12])[H:13])=[N:7]\[H:16])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],32.88411394595991
[C:1]([C:2]([N+:3]([C-:4]([H:13])[H:14])([C:5](=[O:6])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],15.641174210489794
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[C:5](#[N:6])[H:8].[O:1]([C-:2]=[C:3]=[C+:4][H:9])[H:7],73.5467286005981
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:8])[H:11])([H:9])[H:10])[H:7],58.1694173749153
[O:1]([C@@:2]1([H:9])[C@@:3]2([H:10])[C@@:4]3([H:11])[C:5]([H:12])([H:13])[C@:6]1([H:14])[N:7]23)[H:8]>>[O:1]([C:2][C@@:3]1([H:10])[C@@:4]2([H:11])[C:5]([H:12])([H:13])[C:6]([H:9])([H:14])[N:7]12)[H:8],66.5865315037192
[C-:6]#[O+:7].[O:1]([C:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])([H:9])[H:13])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],67.42529819147057
